* C:\Users\Owner\Documents\KiCad\ECE 196\196_Project_Team13\Other Things\Simulations\196 Circuit Planning.asc
XX1 N007 N008 0 irlml2502
V1 N001 0 5
R1 N006 N007 62.2
V2 N008 0 PULSE(0 3.3 0 1u 1u 1m 2m)
D1 N002 N006 LED
D2 N001 N002 LED
R2 N008 0 220
D3 N003 N006 LED
D4 N001 N003 LED
D5 N004 N006 LED
D6 N001 N004 LED
D7 N005 N006 LED
D8 N001 N005 LED
.model D D
.lib C:\Users\Owner\AppData\Local\LTspice\lib\cmp\standard.dio
.include irlml2502.lib.txt
.tran 5m
.model LED D(IS=9e-19 N=2 RS=3)
.backanno
.end
